US07939673B2
Ethyl 3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylate (one-pot process)
10.8 g of N-1,1,2,2-tetrafluoroethyldimethylamine were initially charged in 50 ml of acetonitrile under argon and 26 g of boron trifluoride as a 17% solution in CH3CN were added at RT. The mixture was stirred for 30 min and then admixed with 8.67 g of ethyl dimethylaminoacrylate. The mixture was stirred at RT for 2 h and then added slowly to the solution of 3.4 g of methylhydrazine in 10 ml of acetonitrile at 10° C. After stirring at RT for 2 h, the acetonitrile was removed completely under reduced pressure and the product was admixed with water and filtered off. Distillation under reduced pressure or washing with cyclohexane afforded 10 g of the product with the purity of 99% and an m.p. of 62-63° C.

reactant | N-1,1,2,2-tetrafluoroethyldimethylamine | 10.8 g | FC(C(F)F)(F)N(C)C | C4H7F4N
reactant | boron trifluoride | 26 g | B(F)(F)F | BF3
reactant | ethyl dimethylaminoacrylate | 8.67 g | CN(C)C(C(=O)OCC)=C | C7H13NO2
reactant | methylhydrazine | 3.4 g | CNN | CH6N2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | CH3CN | CC#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | Ethyl 3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxylate | 10 g | FC(C1=NN(C=C1C(=O)OCC)C)F | C8H10F2N2O2
